US07514571B2
Synthesis of (2S,4S)-1-[[N-(4-carboxybicyclo[2,2,2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile
(2S,4S)-1-[[N-[4-(2-Tetrahydropyranyl)oxycarbonylbicyclo[2,2,2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (71.6 mg) was dissolved in acetic acid (4 mL) and the solution was stirred at room temperature for 6 hours. Subsequently, the reaction mixture was concentrated under reduced pressure and the residue was suspended in dichloromethane and was collected by filtration. This gave (2S,4S)-1-[[N-(4-carboxybicyclo[2,2,2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (31.4 mg).

reactant | (2S,4S)-1-[[N-[4-(2-Tetrahydropyranyl)oxycarbonylbicyclo[2,2,2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 71.6 mg | O1C(CCCC1)OC(=O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C21H30FN3O4
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
product | (2S,4S)-1-[[N-(4-carboxybicyclo[2,2,2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | C(=O)(O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C16H22FN3O3
